US08809267B2
tert-Butoxycarbonylamino-cyclopentyl-acetate dicyclohexylammonium salt (2.85 g, 6.6 mmol; commercially available from Bachem) was dissolved in 1M HCl. Immediate EtOAc extractions were washed with brine and dried over anhydrous Na2SO4. Following concentration in vacuo, tert-Butoxycarbonylamino-cyclopentyl-acetic acid was isolated as a white foamy solid (1.6 g, quant) and was used without further purification. LCMS found 241.9

reactant | tert-Butoxycarbonylamino-cyclopentyl-acetate dicyclohexylammonium salt | C1(CCCCC1)[NH2+]C1CCCCC1.C(C)(C)(C)OC(=O)NC(C(=O)[O-])C1CCCC1
solvent | HCl | 1M | Cl | ClH
product | tert-Butoxycarbonylamino-cyclopentyl-acetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1CCCC1 | C12H21NO4
